US05750574
3-tert-Butylamino-4-(4-trifluoromethoxy-benzylamino)-cyclobut-3-ene-1,2-dione
The title compound was prepared according to the procedure for example 1-step 2 except that 3-ethoxy-4-(tert-butylamino)-cyclobut-3-ene-1,2-dione was used in place of (R)-3-ethoxy-4-(1,2,2-trimethyl-propylamino)-cyclobut-3-ene-1,2-dione and 4-trifluoromethoxy-benzylamine was used in place of 4-fluoro-benzylamine. Yield: 66%; mp: 292°-294° C.; 1H NMR (300 MHz, DMSO-d6): δ1.36 (m, 9H), 4.73-4.79 (m 2H), 7.39 (d, J=8.0 Hz, 2H), 7.76 (d, J=8.2 Hz, 2H), 7.81 (brs, 1H), one N--H proton not seen; IR (KBr, cm-1): 3293s, 3242s, 3061w, 2980m, 1794m, 1655s, 1569s, 1542s, 1472s, 1447s, 1280-1160brs; MS (ES) m/z (relative intensity): 365 (M+ +Na, 100), 343 (M+ +H, 75); Anal. Calcd. for C16H17 F3N2O3 : C, 56.14; H, 5.01; N, 8.18. Found: C, 56.28; H, 5.05; N, 7.97.

reactant | 3-ethoxy-4-(tert-butylamino)-cyclobut-3-ene-1,2-dione | C(C)OC=1C(C(C1NC(C)(C)C)=O)=O | C10H15NO3
reactant | 4-trifluoromethoxy-benzylamine | FC(OC1=CC=C(CN)C=C1)(F)F | C8H8F3NO
reactant | KBr | [K+].[Br-]
product | 3-tert-Butylamino-4-(4-trifluoromethoxy-benzylamino)-cyclobut-3-ene-1,2-dione | Yield: 66% | C(C)(C)(C)NC=1C(C(C1NCC1=CC=C(C=C1)OC(F)(F)F)=O)=O | C16H17F3N2O3
